US08648066B2
A solution of methyl 4-methyl-2-oxocyclopentanecarboxylate (0.42 g, 2.69 mmol), 2-methyl-2-thiopseudourea sulfate (1.10 g, 7.9 mmol) and potassium hydroxide (0.50 g, 8.9 mmol) in water (12 mL) was stirred at 25° C. for 30 minutes, and then heated to reflux for 4 hours. The reaction was cooled to 0° C. by adding ice and a precipitate was formed. The solid product was removed by filtration and the filter cake dried to give 6-methyl-2-(methylthio)-6,7-dihydro-3H-cyclopenta[d]pyrimidin-4(5H)-one (0.19 g, 43% yield) as a white solid. 1H NMR (400 MHz, d6-DMSO): 2.87 (m, 2H), 2.53 (s, 3H), 2.37 (m, 2H), 2.28 (s, 3H), 1.49 (m, 1H), 1.02 (d, 3H).

reactant | methyl 4-methyl-2-oxocyclopentanecarboxylate | 2.69 mmol, 0.42 g | CC1CC(C(C1)C(=O)OC)=O | C8H12O3
reactant | 2-methyl-2-thiopseudourea sulfate | 7.9 mmol, 1.10 g | S(=O)(=O)(O)O.CSC(N)=N
reactant | potassium hydroxide | 8.9 mmol, 0.50 g | [OH-].[K+]
solvent | water | 12 mL | O | H2O
product | 6-methyl-2-(methylthio)-6,7-dihydro-3H-cyclopenta[d]pyrimidin-4(5H)-one | 0.19 g, 43% yield | CC1CC2=C(N=C(NC2=O)SC)C1 | C9H12N2OS
